US06147216
Step h: 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic Acid, Dimethylamide
Add AlCl3 (1.12 g, 8.40 mmol) to carbon tetrachloride (6 mL) under a nitrogen atmosphere at room temperature. Add 4-chlorobutyryl chloride (0.49 mL, 4.37 mmol), stir for 15 minutes and add, by dropwise addition over 3 minutes, a solution of 2-methyl-2-phenyl-propionic acid, dimethylamide (0.64 g, 3.36 mmol) in carbon tetrachloride (6 mL). Stir at room temperature for 17 hours, dilute with methylene chloride (10 mL), pour into ice water (50 mL) and separate the layers. Wash the aqueous layer with methylene chloride (2×70 mL), 5% aqueous sodium hydrogen carbonate, combine the organic layers and dry (Na2SO4). Filter, evaporate the filtrate in vacuo and purify by silica gel chromatography (5:2 hexane/ethyl acetate) to give the title compound (0.72 g, 72%) as a light yellow oil.

reactant | AlCl3 | 8.40 mmol, 1.12 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-chlorobutyryl chloride | 4.37 mmol, 0.49 mL | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 2-methyl-2-phenyl-propionic acid, dimethylamide | 3.36 mmol, 0.64 g | CN(C(C(C)(C1=CC=CC=C1)C)=O)C | C12H17NO
solvent | carbon tetrachloride | 6 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 6 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic Acid, Dimethylamide | 0.72 g, 72% | CN(C(C(C)(C)C1=CC=C(C=C1)C(CCCCl)=O)=O)C | C16H22ClNO2
